*BZX55C20 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*20V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C20 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  19.46
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=38.8P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=22.2U RS=7.91 N=3.6)
.ENDS