*
* Diode Sim Model Produced by Altium Ltd
* Date:  20-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZX84C10V
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZX84C10V 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 0.85899
Vbrk 50 10 10

* Subcircuit models
*+  BV = 10.124
*+  IBV = 0.72438
.MODEL DIDEAL D
+(
+  IS = 1.1088E-16
+  N = 0.92657
+  TT = 9.7382E-07
+  CJO = 5.7292E-11
+  VJ = 0.67995
+  M = 0.33236
+)

.MODEL DHIGH D
+(
+  IS = 4.75192213058472
+  N = 0.92657
+  RS = 0.85899
+)

.MODEL DRECOMB D
+(
+  IS = 4.86016588697104E-11
+  N = 2.06365093952153
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZX84C10V