*
* Diode Sim Model Produced by Altium Ltd
* Date:  20-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZX84C11V
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZX84C11V 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 0.525
Vbrk 50 10 11

* Subcircuit models
*+  BV = 11.119
*+  IBV = 0.54544
.MODEL DIDEAL D
+(
+  IS = 2.6665E-18
+  N = 0.82284
+  TT = 3.2172E-06
+  CJO = 3.8612E-11
+  VJ = 0.58913
+  M = 0.32962
+)

.MODEL DHIGH D
+(
+  IS = 2.30535138398409E-02
+  N = 0.82284
+  RS = 0.51617
+)

.MODEL DRECOMB D
+(
+  IS = 6.88471413953E-10
+  N = 2.14614082581432
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZX84C11V