*BZX55C2V4 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*2.4V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C2V4 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  1.885
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=293P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=5.1N RS=3.11 N=1.4)
.ENDS