*BZX55C3V6 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*3.6V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C3V6 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  3.093
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=160P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=2.12F RS=1.5 N=0.68)
.ENDS