*BZX55C4V7 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*4.7V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C4V7 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  4.196
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=107P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=1.71E-23 RS=0.909 N=0.41)
.ENDS